US08735440B2
Preparation of (S)-3,6-dibromo-9-(oxiran-2-ylmethyl)-9H-carbazole [(S)-epoxide A]
To a solution of 3,6-dibromocarbazole (0.2194 g, 0.675 mmol) and triphenylphosphine (0.1770 g, 0.675 mmol) in THF (5.4 mL) was added S-(−)-glycidol (44.8 μL, 0.0500 g, 0.675 mmol). The reaction mixture was cooled in an ice bath and diethyl azodicarboxylate (106.3 μL, 0.1175 g, 0.675 mmol) was added. The reaction mixture was allowed to warm to room temperature and stir overnight. THF was removed under vacuum and the residue was dissolved in 30 mL EtOAc and washed with brine (3×30 mL). The organic layer was dried over anhydrous Na2SO4 and evaporated to afford the crude product, which was subjected to silica gel chromatography using Hexanes/EtOAc to afford white solid as product (0.0514 g, yield 20.0%).

reactant | 3,6-dibromocarbazole | 0.675 mmol, 0.2194 g | BrC=1C=CC=2NC3=CC=C(C=C3C2C1)Br | C12H7Br2N
reactant | triphenylphosphine | 0.675 mmol, 0.1770 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.675 mmol, 106.3 μL, 0.1175 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 5.4 mL | C1CCOC1 | C4H8O
product | (S)-3,6-dibromo-9-(oxiran-2-ylmethyl)-9H-carbazole | yield 20.0% | BrC=1C=CC=2N(C3=CC=C(C=C3C2C1)Br)C[C@@H]1OC1 | C15H11Br2NO
